US09216173B2
To a suspension of tert-butyl (1S,2R)-2-(6-cyano-5-(5-hydroxy-5-methyl-5,6,7,8-tetrahydroquinolin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate (25 mg, 0.051 mmol) in dichlormethane (1.5 mL) was added trifluoroacetic acid (0.5 mL). After 20 minutes, the reaction mixture was diluted with toluene (1 mL) and dichloromethane (10 mL), and then concentrated under reduced pressure. The residue was dissolved in methanol (1 mL) and toluene (1 mL) and then concentrated under reduced pressure. This entire procedure was repeated again to afford 5-((1R,2S)-2-aminocyclohexylamino)-3-(5-methyl-7,8-dihydroquinolin-2-ylamino)picolinonitrile which was used without further purification. MS ESI calc'd. for C22H27N6 [M+H]+ 375. found 375.

reactant | tert-butyl (1S,2R)-2-(6-cyano-5-(5-hydroxy-5-methyl-5,6,7,8-tetrahydroquinolin-2-ylamino)pyridin-3-ylamino)cyclohexylcarbamate | 0.051 mmol, 25 mg | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC=2CCCC(C2C=C1)(C)O | C27H36N6O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichlormethane | 1.5 mL | ClCCl | CH2Cl2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-((1R,2S)-2-aminocyclohexylamino)-3-(5-methyl-7,8-dihydroquinolin-2-ylamino)picolinonitrile | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=NC=2CCC=C(C2C=C1)C | C22H26N6
